US06900216B2
A solution of 3-bromo-4-fluorobenzo[b]thiophene (3.0 g) in tetrahydrofuran (10 ml) was added dropwise under nitrogen at −60-−70° C. over 10 minutes to a stirred solution of n-butyllithium (2.5M solution in hexanes; 6.75 ml) in ether (30 ml), then the mixture was stirred at −70° C. for 30 minutes. A solution of N-methoxy-N-methylpropionamide (1.31 g) in tetrahydrofuran (10 ml) was added dropwise at −70° C. over 10 minutes, then the mixture was stirred at −70° C. for 5 hours and allowed to stand at ambient temperature for 12 hours. The mixture was quenched by the addition of saturated aqueous ammonium chloride solution (40 ml), then the organic layer was separated, washed with saturated aqueous sodium chloride solution (40 ml), dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by flash chromatography over silica using a 10:1 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 1-(4-fluorobenzo[b]thiophen-2-yl)propan-1-one (0.54 g) as a colourless solid which was used without further purification.

reactant | 3-bromo-4-fluorobenzo[b]thiophene | 3.0 g | BrC=1C2=C(SC1)C=CC=C2F | C8H4BrFS
reactant | n-butyllithium | 2.5M, 6.75 ml | C(CCC)[Li]
reactant | N-methoxy-N-methylpropionamide | 1.31 g | CON(C(CC)=O)C | C5H11NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-fluorobenzo[b]thiophen-2-yl)propan-1-one | 0.54 g | FC1=CC=CC=2SC(=CC21)C(CC)=O | C11H9FOS
